US09278985B2
Preparation 54: 5,7-Difluoro-6-iodo-1-(triisopropylsilyl)-1H-indole
5,7-difluoro-1-(triisopropylsilyl)-1H-indole (1.4 g, 4.5 mmol) and pentamethyldiethylene-triamine (830 mg, 4.8 mmol) were combined in 10 mL dry THF, cooled to −70° C. and treated in portions with sec-butyl lithium (3.4 mL, 1.4 M, 4.8 mmol) and stirred for 3 h at this temperature. Iodine (1.3 g, 5.0 mmol) in 5 mL THF was added, the mixture was stirred for 50 min, quenched by addition of 3 mL sat. NH4Cl and partitioned between diethyl ether and water. The organic phase was washed with sat. NaCl, dried (Na2SO4), evaporated and purified by flash chromatography (SiO2; hexanes) the title compound as a clear oil which solidified on standing (1.9 g, 90%). 1H NMR (400 MHz, CDCl3) δ 7.34 (d, J=3.1 Hz, 1H), 7.14 (dd, J=7.7, 0.9 Hz, 1H), 6.60 (t, J=3.1 Hz, 1H), 1.67 (m, 3H), 1.13 (d, J=7.6 Hz, 18H). 19F NMR (376 MHz, CDCl3) δ −101.37, −105.33. MP: 74-76° C.

reactant | 5,7-difluoro-1-(triisopropylsilyl)-1H-indole | 4.5 mmol, 1.4 g | FC=1C=C2C=CN(C2=C(C1)F)[Si](C(C)C)(C(C)C)C(C)C | C17H25F2NSi
reactant | pentamethyldiethylene-triamine | 4.8 mmol, 830 mg | CN(CCN(CCN(C)C)C)C | C9H23N3
reactant | sec-butyl lithium | 4.8 mmol, 1.4 M, 3.4 mL | C(C)(CC)[Li]
reactant | Iodine | 5.0 mmol, 1.3 g | II | I2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5,7-Difluoro-6-iodo-1-(triisopropylsilyl)-1H-indole | FC=1C=C2C=CN(C2=C(C1I)F)[Si](C(C)C)(C(C)C)C(C)C | C17H24F2INSi
